US07495103B2
A mixture of 8-bromo-5-methoxy-4-oxo-1,4-dihydro-quinoline-3 -carboxylic acid ethyl ester (2.3 g, 7.1 mmol), sodium acetate (580 mg, 7.1 mmol) and 10% Pd/C (100 mg) in glacial acetic acid (50 ml) was stirred under H2 (2.5 atm) overnight. The catalyst was removed via filtration, and the reaction mixture was concentrated under reduced pressure. The resulting oil was dissolved in CH2Cl2 (100 mL) and washed with aqueous sodium bicarbonate solution and water. The organic layer was dried, filtered and concentrated. The crude product was purified by column chromatography to afford 5-methoxy-4-oxo-1,4-dihydro-quinoline-3 -carboxylic acid ethyl ester as a yellow solid (1 g, 57%).

reactant | 8-bromo-5-methoxy-4-oxo-1,4-dihydro-quinoline-3 -carboxylic acid ethyl ester | 7.1 mmol, 2.3 g | C(C)OC(=O)C1=CNC2=C(C=CC(=C2C1=O)OC)Br | C13H12BrNO4
reactant | sodium acetate | 7.1 mmol, 580 mg | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 5-methoxy-4-oxo-1,4-dihydro-quinoline-3 -carboxylic acid ethyl ester | 1 g, 57% | C(C)OC(=O)C1=CNC2=CC=CC(=C2C1=O)OC | C13H13NO4
